US05089499
Using the method described in J. Med. Chem., 1980, 23, 1405, methyl 5-(N-tert-butoxycarbonylamino)pyridine-2-carboxylate was reacted with prop-2-ynyl bromide to give methyl 5-[N-tert-butoxycarbonyl-N-(prop-2-ynyl)amino]pyridine-2-carboxylate in 90% yield. A mixture of the product so obtained and trifluoroacetic acid was stirred at 0° C. for 1 hour and evaporated. There was thus obtained methyl 5-(N-prop-2-ynylamino)pyridine-2-carboxylate in 90% yield, as a gum.

reactant | methyl 5-(N-tert-butoxycarbonylamino)pyridine-2-carboxylate | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)C(=O)OC | C12H16N2O4
reactant | prop-2-ynyl bromide | C(C#C)Br | C3H3Br
product | methyl 5-[N-tert-butoxycarbonyl-N-(prop-2-ynyl)amino]pyridine-2-carboxylate | 90% yield | C(C)(C)(C)OC(=O)N(CC#C)C=1C=CC(=NC1)C(=O)OC | C15H18N2O4
